US07732618B2
b.) {5-[Benzyl-(3 -chloro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[Benzyl-(3-chloro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester (0.12 mmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.89 (m, 1H), 7.71 (m, 1H), 7.52 (m, 1H), 7.45 (m, 1H), 7.21 (m, 6H), 6.91 (m, 1H), 5.11 (s, 2H), 4.91 (s, 2H), 2.65 (t, 2H), 1.71 (m, 2H), 0.92 (t, 3H). MS calculated for C26H24ClN3O3+H: 462, observed: 462.

reactant | {5-[Benzyl-(3-chloro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | 0.12 mmol | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(C(C2=CC(=CC=C2)Cl)=O)CC2=CC=CC=C2)CCC)=O | C30H32ClN3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[Benzyl-(3 -chloro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | C(C1=CC=CC=C1)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)C(C1=CC(=CC=C1)Cl)=O | C26H24ClN3O3
